US07589105B2
2-Methyl-N,N′-dimethyl-N,N′-bis(3-hydroxyphenyl)-pyrimidine-4,6-diamine (Exemplified Compound No. 1-31)
This compound was obtained (yield 45%) based on the method described in Production Example 2B using 4,6-dichloro-2-methylpyrimidine instead of the 4,6-dichloro-2-ethylpyrimidine, and using 3-methylaminophenol instead of the 3-aminophenol.

reactant | 4,6-dichloro-2-methylpyrimidine | ClC1=NC(=NC(=C1)Cl)C | C5H4Cl2N2
reactant | 3-methylaminophenol | CNC=1C=C(C=CC1)O | C7H9NO
product | 2-Methyl-N,N′-dimethyl-N,N′-bis(3-hydroxyphenyl)-pyrimidine-4,6-diamine | yield 45% | CC1=NC(=CC(=N1)N(C1=CC(=CC=C1)O)C)N(C1=CC(=CC=C1)O)C | C19H20N4O2
